US07960409B2
Step 5: 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid
To a solution of 7-methyl-4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylate (840 mg, 2.79 mmol) in THF (40 mL) a solution of lithium hydroxide (14 mL, 14.0 mmol) was added. The solution was then heated at 65° C. for 1.5 hours. After cooling, THF was removed under reduced pressure and 2N HCl (8.6 mL, 17.2 mmol) was added. After 1 h stirring, the solid formed was collected by filtration to afford the title compound. 1H NMR (400 MHz, DSMO-d6): 13.6 (bs, 1H), 8.40 (d, 1H), 8.32 (s, 1H), 7.91 (d, 1H), 7.89 (s, 1H), 6.86 (s, 1H), 2.82 (s, 3H).

reactant | 7-methyl-4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylate | 2.79 mmol, 840 mg | CC1(C=CC2=C(CC(OC2=C1)=O)C=1N=C(SC1)C)C(=O)[O-]
reactant | lithium hydroxide | 14.0 mmol, 14 mL | [OH-].[Li+]
reactant | HCl | 17.2 mmol, 2N, 8.6 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C(=O)O)=O | C14H9NO4S
